US09216964B2
A mixture containing 5-bromo-1,2,3,4-tetrahydroisoquinoline (212 mg, 1 mmol) and methylsulfonylethene (106 mg, 1 mmol) in dichloromethane is stirred at 35° C. for 14 hours. The solution is concentrated to afford 5-bromo-2-(2-(methylsulfonyl)ethyl)-1,2,3,4-tetrahydroisoquinoline as a brown oil (LC-MS m/z: 318.1 (M+1)) which is used without further purification in the next step.

reactant | 5-bromo-1,2,3,4-tetrahydroisoquinoline | 1 mmol, 212 mg | BrC1=C2CCNCC2=CC=C1 | C9H10BrN
reactant | methylsulfonylethene | 1 mmol, 106 mg | CS(=O)(=O)C=C | C3H6O2S
solvent | dichloromethane | ClCCl | CH2Cl2
product | 5-bromo-2-(2-(methylsulfonyl)ethyl)-1,2,3,4-tetrahydroisoquinoline | BrC1=C2CCN(CC2=CC=C1)CCS(=O)(=O)C | C12H16BrNO2S
